US06897224B2
8-Aminoquinoline-2-carboxylic acid amide
Analogously to Example 37, 120 mg (0.59 mmol) of 8-aminoquinoline-2-carboxylic acid methyl ester is reacted with 10 ml of a 7N methanolic ammonia solution. After purification on silica gel with hexane-ethyl acetate, 79 mg (72% of theory) of the product is obtained.

reactant | 8-aminoquinoline-2-carboxylic acid methyl ester | 0.59 mmol, 120 mg | COC(=O)C1=NC2=C(C=CC=C2C=C1)N | C11H10N2O2
reactant | ammonia | 7N | N | H3N
product | 8-Aminoquinoline-2-carboxylic acid amide | NC=1C=CC=C2C=CC(=NC12)C(=O)N | C10H9N3O
